US07408084B2
A tetrahydrofuran solution (50 mL) of 15.0 g (100 mmol) of p-hydroxypropiophenone and 12.143 g (1.2 equivalents) of triethylamine was cooled to 5° C. To this solution, 12.60 g (1.1 equivalents) of methanesulfonyl chloride was added dropwise over 30 minutes, followed by 1 hour of stirring. To the resulting solution, 40 mL of water and 70 mL of ethyl acetate were added to conduct extraction. The organic layer was washed with 50 mL of saturated brine, dried over anhydrous magnesium sulfate, and subjected to distillation under a reduced pressure to remove the solvents. A white solid was obtained as a result. This white solid was crystallized from 40 mL of ethyl acetate and 120 mL of hexane to thereby obtain white crystals of p-(methanesulfonyloxy)propiophenone (21.17 g, isolation yield: 93%). To a tetrahydrofuran solution (20 mL) of 4.560 g (20 mmol) of p-(methanesulfonyloxy)propiophenone, a hexane solution (5 mL) of 3.516 g (1.1 equivalent) of bromine was added at 15° C., followed by 1 hour of stirring. To the resulting solution, 30 mL of saturated sodium hydrogen carbonate and 30 mL of ethyl acetate were added to conduct extraction. The organic layer was washed with 20 mL of a saturated sodium hydrogen carbonate solution, dried over anhydrous magnesium sulfate, and subjected to distillation under a reduced pressure to remove the solvent. 1-[4-(Methanesulfonyloxy)phenyl]-2-bromo-1-propanone was obtained as an yellow, oily substance (10.12 g, crude yield: 97%).

reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
reactant | p-hydroxypropiophenone | 100 mmol, 15.0 g | OC1=CC=C(C=C1)C(CC)=O | C9H10O2
reactant | triethylamine | 12.143 g, 1.2 equivalents | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 12.60 g, 1.1 equivalents | CS(=O)(=O)Cl | CH3ClO2S
solvent | ethyl acetate | 70 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 40 mL | O | H2O
product | p-(methanesulfonyloxy)propiophenone | 21.17 g, yield: 93% | CS(=O)(=O)OC1=CC=C(C=C1)C(CC)=O | C10H12O4S
